US07897597B2
Under a nitrogen atmosphere, diethoxymethyl acetate (3.0 mL, 18 mmol) was added dropwise to a solution of 7-benzyloxy-N4-(2-phenoxyethyl)quinoline-3,4-diamine (3.0 g, 7.8 mmol) in toluene (30 mL), and the reaction was heated at reflux for three hours. The reaction mixture was concentrated under reduced pressure until a small volume of solvent remained. Hexanes were added, and the resulting mixture was cooled for 20 minutes in a refrigerator. A precipitate formed which was isolated by filtration, washed with hexanes, and dried overnight under reduced pressure to provide 3.12 g of 7-benzyloxy-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinoline as a solid.

reactant | diethoxymethyl acetate | 18 mmol, 3.0 mL | C(C)(=O)OC(OCC)OCC | C7H14O4
reactant | 7-benzyloxy-N4-(2-phenoxyethyl)quinoline-3,4-diamine | 7.8 mmol, 3.0 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)N)NCCOC1=CC=CC=C1 | C24H23N3O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 7-benzyloxy-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinoline | 3.12 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=CN3CCOC3=CC=CC=C3 | C25H21N3O2
